US09259470B2
NaH (3.05 mg, 0.0762 mmol; 60% oil dispersion) neat as a solid was added to a stirred solution of 1-((4-chloro-3-fluorophenyl)(1H-pyrazol-4-yl)methyl)-4-(5-fluoro-2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (38 mg, 0.0762 mmol) in DMF (1 mL) at room temperature under nitrogen. After 15 minutes, a red solution had formed. Methyl iodide (4.75 μL, 0.0762 mmol) was then added neat by syringe. After stirring overnight, the reaction was quenched by addition of saturated ammonium chloride solution (1 mL). The mixture was partitioned between ethyl acetate (15 mL) and saturated sodium bicarbonate (15 mL). The organics were isolated and washed with water (3×15 mL) and with brine (15 mL). TLC in 95/5 ethyl acetate/methanol showed complete consumption of starting material with two new major spots of higher rf. The organics were isolated, dried (MgSO4), filtered and concentrated. The crude product was loaded onto a 20 cm×20 cm×0.5 mm prep plate and eluted with 95/5 ethyl acetate/methanol. Three bands were scraped off the plate. Compound was freed from the silica gel by stirring for 15 minutes with ethyl acetate (50 mL) and filtration. The high rf material shows two methyl signals by 1H-NMR and is presumed to be dimethylated byproduct. The lower rf material was isolated as a clear oil, 1-((4-chloro-3-fluorophenyl)(1-methyl-1H-pyrazol-4-yl)methyl)-4-(5-fluoro-2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (9 mg, 23%) and appears to be the desired product by comparison to the non-fluoro analog (see Example 35). 1H NMR (400 MHz, CDCl3) δ 8.27 (d, 1H), 7.36 (m, 3H), 7.30 (br s, 1H), 7.23 (s, 1H), 7.01 (m, 2H), 6.80 (d, 1H), 5.09 (d, 1H), 4.00 (m, 3H), 3.91 (s, 3H), 3.54 (m, 2H), 2.04 (m, 2H), 1.57 (m, 2H).

reactant | NaH | 0.0762 mmol, 3.05 mg | [H-].[Na+]
reactant | 1-((4-chloro-3-fluorophenyl)(1H-pyrazol-4-yl)methyl)-4-(5-fluoro-2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.0762 mmol, 38 mg | ClC1=C(C=C(C=C1)C(N1C(C=C(C=C1)C1=NC(=NC=C1F)NC1CCOCC1)=O)C=1C=NNC1)F | C24H21ClF2N6O2
reactant | Methyl iodide | 0.0762 mmol, 4.75 μL | CI | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-((4-chloro-3-fluorophenyl)(1-methyl-1H-pyrazol-4-yl)methyl)-4-(5-fluoro-2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 9 mg, 23% | ClC1=C(C=C(C=C1)C(N1C(C=C(C=C1)C1=NC(=NC=C1F)NC1CCOCC1)=O)C=1C=NN(C1)C)F | C25H23ClF2N6O2
